US06232310B1
a) (2-Amino-3,5-difluoro-phenylsulfanyl)acetonitrile
A suspension of 2-amino-4,6-difluoro-benzothiazole (7.00 g) was stirred for 6 h at 160° C. under nitrogen in a solution of potassium hydroxide (12.6 g) in water (20 ml). The resulting mixture was cooled to 0-5° C. and a solution of acetic acid (8.85 ml) in water (10 ml) and subsequently ethanol (40 ml) and iodoacetonitrile (2.75 ml) were added. After 30 min the mixture was neutralized with acetic acid (2.25 ml) and filtered. The filtrate was evaporated to approx. 30 ml and diluted with water (150 ml). A yellow precipitate was filtered off and dried. The crude product was purified by flash chromatography on silica gel eluted with ethyl acetate—heptane (3:7) yielding the title compound, Rf=0.26, as orange crystals, mp 66-67° C.; 1H-NMR (DMSO-d6), δ (ppm): 7.30-7.07 (m, 2H, Ar—H), 5.33 (br, 2H, NH2), 4.05 (s, 2H, CH2).

reactant | 2-amino-4,6-difluoro-benzothiazole | 7.00 g | NC=1SC2=C(N1)C(=CC(=C2)F)F | C7H4F2N2S
reactant | potassium hydroxide | 12.6 g | [OH-].[K+]
reactant | iodoacetonitrile | 2.75 ml | ICC#N | C2H2IN
solvent | water | 20 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | acetic acid | 2.25 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | acetic acid | 8.85 ml | C(C)(=O)O | C2H4O2
product | (2-Amino-3,5-difluoro-phenylsulfanyl)acetonitrile | NC1=C(C=C(C=C1F)F)SCC#N | C8H6F2N2S
